US05420115
2-Amino-6-chloro- 9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine
2-Amino-6-chloropurine (Sigma Chemical Company, 0.8 g, 4.7 mmoles) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.4 g, 1.6 mmoles) were suspended in 25 ml of 10 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. Thymidine phosphorylase (4,000 I.U.) and purine nucleoside phosphorylase (6,500 I.U.) were added and the suspension stirred at 37° C. On day 10, the reaction was diluted to 100 ml with 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. On day 20, the reaction was diluted to 200 ml with 5 mM potassium phosphate buffer, pH 7, which contained 0.04% (w/v) potassium azide, and 2,640 I.U. thymidine phosphorylase and 4,360 I.U. purine nucleoside phosphorylase were added. On day 53, the reaction was filtered. The filtrate was evaporated and the residue stored at 4°. The residues from Reactions 1 and 2 were suspended in water and combined. The suspension was warmed and then filtered. The product which was contained in the filtrate was purified by chromatography on a 7.5×90 cm column of Biogel P-2 (Bio-Rad) with n-propanol/water (3/7) as the solvent, followed by chromatography on a 5×90 cm column of Sephadex G-10 (Pharmacia LKB) with n-propanol/water (3/7) as the solvent. Fractions containing only product were pooled and the solvent removed under vacuum. The residue was suspended in water and lyophilized to obtain the title compound (batch 1). Fractions containing product plus impurities which were eluted off the Sephadex G-10 column were combined and the solvent removed under vacuum. The residue was dissolved in water/MeCN (49/1), and the product was further purified by reversed phase chromatography on C18 silica (Hi-Chrom Prep-40-ODS, Regis Chemical Co.) with water/MeCN (49/1) as the solvent. Product containing fractions were combined and filtered through an 0.2 μm-pore nylon filter to remove residual silica. After the solvent was removed under vacuum, the residue was dissolved in water and filtered through a 0.22 m-pore membrane filter (Millipore GS). Lyophilization of the filtrate yielded the title compound (batch 2) that analyzed as a 0.5 hydrate.

reactant | 2-Amino-6-chloropurine | 4.7 mmoles, 0.8 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 1.6 mmoles, 0.4 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 25 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 5 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 5 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-Amino-6-chloro- 9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F)Cl | C10H11ClFN5O3
